US08383644B2
3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile
(S)-CBS reagent (46.5 mL, 1M in toluene) was added to a THF solution (200 mL) of borane-diethylaniline complex (15.16 g) were stirred together 15 min at room temperature. 3-{2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-ethoxy}-4-fluoro-benzonitrile (20 g) in 600 mL of dry THF was then added through an addition funnel at rt over 20 minutes. The mixture was stirred for 15 minutes and then was quenched by slow addition of 60 mL MeOH. After gas evolution ceased, the mixture was evaporated and water was added to the residue and extracted with ethyl acetate. Ethyl acetate layer separated and washed with water, brine, dried (Na2SO4), filtered, and evaporated. The residue was purified by silicagel column (DCM; 10% EtOAc in DCM) to get pure product. 1H NMR (400 MHz, CDCl3): 7.55 (d, 1H), 7.45 (d, 1H), 7.15-7.35 (m, 4H), 7.09 (t, 1H), 7.04 (d, 1H), 6.92 (m, 1H), 5.15 (m, 1H), 5.04 (s, 2H), 4.10 (m, 2H), 2.63 (d, 1H).

reactant | 3-{2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-ethoxy}-4-fluoro-benzonitrile | 20 g | ClC=1C=C(COC=2C=C(C=CC2)C(COC=2C=C(C#N)C=CC2F)=O)C=CC1Cl | C22H14Cl2FNO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile | ClC=1C=C(COC=2C=C(C=CC2)[C@@H](COC=2C=C(C#N)C=CC2F)O)C=CC1Cl | C22H16Cl2FNO3
